US06541585B2
2,6-Bis-dimethoxyphenyllithium was prepared from 14.18 g (0.103 mole) of 1,3-dimethoxybenzene, 77 mL of a 1.6 M solution of BuLi in hexanes and 0.23 mL of N,N,N′,N′-tetramethylethylenediamine in dry diethyl ether (72 mL). Dichloromethylphosphine (5.0 g, 0.04276 mole) was added at 0° C., and the reaction mixture was stirred at room temperature overnight. Methanol (20 mL) was added, and the mixture was concentrated to about half its original volume under reduced pressure. The resulting white precipitates were filtered and were recrystallized from methanol to give white crystals of bis-(2,6-dimethoxyphenyl)(methyl)phosphine with 48% yield (6.6 g) and melting point at 112.33° C. 1H NMR (CDCl3) δ1.75 (s (broad), 3H, Me-P), 3.55 (s, 12H, Me-O), 6.4-7.2 (m, 6H, aromatic protons); 31P NMR (CDCl3) δ−51. 5 ppm. LS/MS: found m/w is 321, calculated m/w is 321. Anal. found: C 64.30%; H 6.45%; calculated for C17H22O4P: C 63.49%; H 6.85%.

reactant | 1,3-dimethoxybenzene | 0.103 mole, 14.18 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | BuLi | [Li]CCCC
reactant | Dichloromethylphosphine | 0.04276 mole, 5.0 g | ClC(Cl)P | CH3Cl2P
reactant | Methanol | 20 mL | CO | CH4O
reactant | diethyl ether | 72 mL | C(C)OCC | C4H10O
solvent | N,N,N′,N′-tetramethylethylenediamine | 0.23 mL | CN(CCN(C)C)C | C6H16N2
product | bis-(2,6-dimethoxyphenyl)(methyl)phosphine | 48% yield | COC1=C(C(=CC=C1)OC)P(C)C1=C(C=CC=C1OC)OC | C17H21O4P
